US04886835
1N aqueous hydrochloric acid solution (87 cc) is added in the course of 3 minutes to a solution, maintained under reflux, of ethyl 2-dimethylamino-5-cyano-5-phenyl-2,4-pentadienoate (21.3 g) in ethanol (27 cc). The mixture is cooled to a temperature of approximately 10° C. and the precipitate obtained is filtered off, washed with ethanol (15 cc) and dried. Ethyl 2-hydroxy-5-cyano-5-phenyl-2,4-pentadienoate (12.1 g), m.p. 189° C., is thereby obtained.

reactant | hydrochloric acid | 1N, 87 cc | Cl | ClH
reactant | ethyl 2-dimethylamino-5-cyano-5-phenyl-2,4-pentadienoate | 21.3 g | CN(C(C(=O)OCC)=CC=C(C1=CC=CC=C1)C#N)C | C16H18N2O2
reactant | ethanol | 27 cc | C(C)O | C2H6O
product | Ethyl 2-hydroxy-5-cyano-5-phenyl-2,4-pentadienoate | 12.1 g | OC(C(=O)OCC)=CC=C(C1=CC=CC=C1)C#N | C14H13NO3
